US07375213B2
Preparation of 2,3,4,6-tetra-O-(trimethylsilyl)-D-glucono-1,5-lactone
700.0 g of D-glucono-1,5-lactone and 7 L of tetrahydrofuran along with 3185.0 g of 4-methylmorpholine were added to a 60 L reaction vessel which was maintained at less than 5° C. 2590 g of trimethylsilyl chloride were added to the vessel and the contents were maintained at 35° C. for 5 hours. Thereafter, the vessel was cooled to 0° C. 10.5 L of toluene and 14 L of water were added to the vessel. The aqueous and organic phases were separated and the organic phase was washed with aqueous dihydrogen phosphate monohydrate to remove excess base and bring the pH of the solution to 7 to 8.

reactant | D-glucono-1,5-lactone | 700.0 g | C1([C@H](O)[C@@H](O)[C@H](O)[C@@H](CO)O1)=O | C6H10O6
reactant | tetrahydrofuran | 7 L | O1CCCC1 | C4H8O
reactant | 4-methylmorpholine | 3185.0 g | CN1CCOCC1 | C5H11NO
reactant | trimethylsilyl chloride | 2590 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | water | 14 L | O | H2O
solvent | toluene | 10.5 L | C1(=CC=CC=C1)C | C7H8
product | 2,3,4,6-tetra-O-(trimethylsilyl)-D-glucono-1,5-lactone | C[Si](O[C@H]1C(=O)O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)(C)C | C18H42O6Si4
